*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/1.00e-02[uF]/25[V]
* Murata P/N :GCM155R71E103KA37
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71E103KA37 Port1 Port2
C01 Port1 N01 9.51e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.73e-10
R03 N02 N03 7.26e-02
C04 N03 N04 1.05e-06
R04 N03 N04 3.06e+03
C05 N04 N05 2.32e-06
R05 N04 N05 2.27e+02
C06 N05 N06 1.65e-06
R06 N05 N06 5.69e+01
C07 N06 N07 1.43e-06
R07 N06 N07 1.09e+01
C08 N07 N08 1.09e-06
R08 N07 N08 1.60e+00
C09 N08 N09 8.79e-07
R09 N08 N09 2.65e-01
C10 N09 N10 1.00e-06
R10 N09 N10 4.16e-02
C11 N10 N11 3.60e-07
R11 N10 N11 2.83e-02
L12 N11 N12 6.49e-11
R12 N11 N12 2.14e-01
C13 N12 N13 1.80e-08
L13 N12 N13 1.54e-11
R13 N12 N13 4.09e-02
C14 N13 Port2 2.60e-12
L14 N13 Port2 1.20e-10
R14 N13 Port2 1.77e+01
.ENDS GCM155R71E103KA37
